US07763730B2
Preparation of (±)-α-(2-chlorophenyl)-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-acetic acid (formula (II))
50.0 g of 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride and 74.6 g of α-bromo-(2-chlorophenyl)acetic acid were successively added to a mixture of 275 ml of water and 75 ml of methanol, and the resulting solution was cooled to below 10° C. while stirring. 63.9 g of 85.0% KOH dissolved in 142 ml of water was slowly added to the above solution while maintaining the temperature at below 15° C. The resulting transparent solution was heated to 40° C. and stirred at that temperature for 3 hrs. The pH of the reaction solution was adjusted to 3.5 with 6N-HCl, cooled to room temperature and stirred for 2 hrs. Then, the reaction mixture was further cooled to below 5° C. and stirred for 2 hrs. The precipitated crystals were filtered, washed sequentially with 150 ml of water and 100 ml of n-hexane, and dried at 40° C. to obtain 81.7 g of the title compound (yield: 88%) as a white-yellow monohydrate.

reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | 50.0 g | Cl.S1C=CC=2CNCCC21
reactant | α-bromo-(2-chlorophenyl)acetic acid | 74.6 g | BrC(C(=O)O)C1=C(C=CC=C1)Cl | C8H6BrClO2
reactant | KOH | 63.9 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 142 ml | O | H2O
solvent | water | 275 ml | O | H2O
solvent | methanol | 75 ml | CO | CH4O
product | (±)-α-(2-chlorophenyl)-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-acetic acid | 81.7 g, yield: 88% | ClC1=C(C=CC=C1)C(C(=O)O)N1CC2=C(CC1)SC=C2 | C15H14ClNO2S
